US04138488
Cyanomethyl 5-(Diphenylmethyl)-picolinate
Suspend 4.3 g. (0.015 mole) of 5-(diphenylmethyl)-picolinic acid in 100 ml. of acetone with stirring and add 2.3 g. (0.023 mole) of triethylamine. To the resulting solution add dropwise 1.7 g. (0.023 mole) of chloroacetonitrile. Stir the reaction mixture at room temperature (25° C.) for 15 minutes, then reflux for 4 hours. Cool and filter the reaction mixture. Concentrate the filtrate to a residue in vacuo and triturate the residue with hot isopropyl ether to yield the product of this example, yield 3.5 g., m.p. 95°-98° C.

reactant | 5-(diphenylmethyl)-picolinic acid | 0.015 mole | C1(=CC=CC=C1)C(C=1C=CC(=NC1)C(=O)O)C1=CC=CC=C1 | C19H15NO2
reactant | triethylamine | 0.023 mole | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | 0.023 mole | ClCC#N | C2H2ClN
solvent | acetone | CC(=O)C | C3H6O
product | Cyanomethyl 5-(Diphenylmethyl)-picolinate | C1(=CC=CC=C1)C(C=1C=CC(=NC1)C(=O)OCC#N)C1=CC=CC=C1 | C21H16N2O2
